US05300514
1-[(4-Benzyloxyphenyl)aminocarbonyl]-4,5-diphenyl-3-pyrazolidinone [Method C]
4-Benzyloxybenzoic acid (2.0 g, 8.8 mmol) was suspended in 50 mL toluene with oxalyl chloride (5 mL) and heated to reflux for 15 min. Solvent was removed in vacuo, the residue redissolved in 30 mL acetone, and an aqueous solution of NaN3 (1.16 g, 17.6 mmol, 2.0 eq. in 10 mL H2O) added dropwise with external cooling by a water bath. The mixture was stirred for 1 hour, diluted with H2O, extracted twice with toluene, then the combined extracts washed with water and brine, and dried over Na2SO4. This solution of acyl azide was treated with 4,5-diphenyl-3-pyrazolidinone (1.6 g, 6.8 mmol, 0.76 eq.), warmed until bubbles evolved, and heating maintained for 30 min. After stirring overnight at room temperature, the solvent was removed in vacuo, and the product isolated by chromatography (0-30% EtOAc:hexane gradient) as 1.6 g (52%) white solid: mp 127°-30° C.;

reactant | 4-Benzyloxybenzoic acid | 8.8 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | oxalyl chloride | 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NaN3 | 17.6 mmol, 10 mL, 1.16 g, 2.0 eq. | [N-]=[N+]=[N-].[Na+]
reactant | 4,5-diphenyl-3-pyrazolidinone | 6.8 mmol, 1.6 g, 0.76 eq. | C1(=CC=CC=C1)C1C(NNC1C1=CC=CC=C1)=O | C15H14N2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | 1-[(4-Benzyloxyphenyl)aminocarbonyl]-4,5-diphenyl-3-pyrazolidinone | 1.6 g, 52% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)N1NC(C(C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H25N3O3
